US04755212
Preparation of 2-benzylthio-5-methyl-7-trifluoromethyl-1,2,4-triazolo[1,5-a]pyrimidine
This material was prepared in 84% yield from 3-amino-5-benzylthio-1,2,4-triazole and 1,1,1-trifluoro-2,4-pentanedione following the general procedure described in Example 34. The product was purified by recrystallization from benzene-hexane to yield a tan solid, m.p. 83.5°-84.5° C. IR, 1H NMR and 19F NMR spectra were in agreement with the assigned structure.

reactant | 3-amino-5-benzylthio-1,2,4-triazole | NC1=NNC(=N1)SCC1=CC=CC=C1 | C9H10N4S
reactant | 1,1,1-trifluoro-2,4-pentanedione | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
product | 2-benzylthio-5-methyl-7-trifluoromethyl-1,2,4-triazolo[1,5-a]pyrimidine | 84% yield | C(C1=CC=CC=C1)SC1=NN2C(N=C(C=C2C(F)(F)F)C)=N1 | C14H11F3N4S
